US07253196B2
6-[(2,2,3,3-Tetramethylcyclopropyl)amino]-5-thia-7-azaspiro[3.4]oct-6-en-8-one
Synthesis was performed from N-(2,2,3,3-tetramethylcyclopropyl)thiourea and ethyl 1-bromocyclobutanecarboxylate according to Method D.

reactant | N-(2,2,3,3-tetramethylcyclopropyl)thiourea | CC1(C(C1(C)C)NC(=S)N)C | C8H16N2S
reactant | ethyl 1-bromocyclobutanecarboxylate | BrC1(CCC1)C(=O)OCC | C7H11BrO2
product | 6-[(2,2,3,3-Tetramethylcyclopropyl)amino]-5-thia-7-azaspiro[3.4]oct-6-en-8-one | CC1(C(C1(C)C)NC=1SC2(CCC2)C(N1)=O)C | C13H20N2OS
